US07691850B2
h) 7-Chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde
7-Chloro-6-((E)-styryl)-4H-pyrido[3,2-b][1,4]oxazin-3-one (8.0 g, 27.9 mmole) was dissolved in a mixture of DMF (400 mL) and methanol (40 mL), and the solution was cooled to −78° C. Ozone was bubbled through the solution with stirring for 45 minutes, then the excess ozone was removed by bubbling oxygen through the solution for 30 min. Dimethylsulfide (21 mL, 279 mmole) was added to the solution, and the reaction was stirred at −78° C. for 3 hr, then at room temperature overnight. The solvent was removed in vacuo, and the residue was triturated with Et2O (150 mL). The collected solid was washed with additional Et2O and dried to afford a white solid (4 g, 68%).

reactant | 7-Chloro-6-((E)-styryl)-4H-pyrido[3,2-b][1,4]oxazin-3-one | 27.9 mmole, 8.0 g | ClC1=CC=2OCC(NC2N=C1\C=C\C1=CC=CC=C1)=O | C15H11ClN2O2
reactant | Dimethylsulfide | 279 mmole, 21 mL | CSC | C2H6S
reactant | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | methanol | 40 mL | CO | CH4O
product | 7-Chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | 4 g, 68% | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
